US04698329
(a) 4(S)-t-Butoxycarbonylamino-N-ethyl-3(S)-hydroxy-6-methylheptanamide
275 mg (1 mmole) of 4(S)-t-butoxycarbonylamino-3(S)-hydroxy-6-methylheptanoic acid and 197 mg (1.1 mmole) of N-hydroxy-5-norbornene-2,3-dicarboximide were dissolved in 10 ml of methylene chloride and ice-cooled. To this solution were added 227 mg (1.1 mmole) of dicyclohexylcarbodiimide, and the mixture was stirred for 1 hour whilst ice-cooling and for a further 2 hours at room temperature. 90 mg (1.1 mmole) of ethylamine hydrochloride and 111 mg (1.1 mmole) of N-methylmorpholine were then added and the reaction mixture was stirred overnight at room temperature. The precipitated dicyclohexylurea was removed by filtration, and the filtrate was concentrated by evaporation under reduced pressure. A 10% w/v aqueous solution of citric acid was added to the resulting residue, and the precipitated oily substance was extracted with ethyl acetate. The organic extract was washed with, in turn, a 10% w/v aqueous solution of citric acid, water, a 5% w/v aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated by evaporation under reduced pressure. Diethyl ether was added to the oily residue to remove insoluble matter, and the filtrate was concentrated by evaporation under reduced pressure. Hexane was added to the resulting oily residue, to solidify it, and the solid was reprecipitated from a 2:1 by volume mixture of hexane and diethyl ether and filtered to give the title compound as a white powdery solid melting at 103°-107° C., [α]23 -43.6° (C=0.5, methanol).

reactant | 4(S)-t-butoxycarbonylamino-3(S)-hydroxy-6-methylheptanoic acid | 1 mmole, 275 mg | C(C)(C)(C)OC(=O)N[C@H]([C@H](CC(=O)O)O)CC(C)C | C13H25NO5
reactant | N-hydroxy-5-norbornene-2,3-dicarboximide | 1.1 mmole, 197 mg | ON1C(=O)C2C3C=CC(C2C1=O)C3 | C9H9NO3
reactant | dicyclohexylcarbodiimide | 1.1 mmole, 227 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethylamine hydrochloride | 1.1 mmole, 90 mg | Cl.C(C)N
reactant | N-methylmorpholine | 1.1 mmole, 111 mg | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4(S)-t-Butoxycarbonylamino-N-ethyl-3(S)-hydroxy-6-methylheptanamide | C(C)(C)(C)OC(=O)N[C@H]([C@H](CC(=O)NCC)O)CC(C)C | C15H30N2O4
